US08957064B2
1-{1-[4-(6-phenyl-imidazo[1,2-a]pyrimidin-7-yl)-benzyl]-piperidin-4-yl}-1H-pyrazolo[3,4-d]pyrimidin-4-ylamine
300 mg (1 mmol) 4-(6-phenylimidazo[1,2-a]pyrimidin-7-yl)benzaldehyde and 306 mg (1.20 mmol) 1-piperidine-4-yl-1H-pyrazolo[3,4-d]pyrimidin-4-ylamine were reacted for four days (additional NaBH(OAc)3 has been added after four, six, eight, 24 and 28 hours (two equivalents each)) at room temperature and purified as previously described. 210 mg of the desired compound were obtained.

reactant | 4-(6-phenylimidazo[1,2-a]pyrimidin-7-yl)benzaldehyde | 1 mmol, 300 mg | C1(=CC=CC=C1)C=1C(=NC=2N(C1)C=CN2)C2=CC=C(C=O)C=C2 | C19H13N3O
reactant | 1-piperidine-4-yl-1H-pyrazolo[3,4-d]pyrimidin-4-ylamine | 1.20 mmol, 306 mg | N1CCC(CC1)N1N=CC=2C1=NC=NC2N | C10H14N6
reactant | NaBH(OAc)3 | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
product | 1-{1-[4-(6-phenyl-imidazo[1,2-a]pyrimidin-7-yl)-benzyl]-piperidin-4-yl}-1H-pyrazolo[3,4-d]pyrimidin-4-ylamine | 210 mg | C1(=CC=CC=C1)C=1C(=NC=2N(C1)C=CN2)C2=CC=C(CN1CCC(CC1)N1N=CC=3C1=NC=NC3N)C=C2 | C29H27N9
